Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
aspirin / NSAIDS
 
Attending: ___.
 
Chief Complaint:
Left inguinal hernia, incisional hernia
 
Major Surgical or Invasive Procedure:
___
1. Left inguinal hernia repair with mesh
2. Incisional hernia repair without mesh

 
History of Present Illness:
___ year old male first seen in ___ for an incisional 
hernia at his umbilicus and a large left inguinal hernia.  Had 
origionally planed for repair with mesh at that time, but he 
subsequently underwent a left knee replacement.  He subsequently 
had an attack of severe groin pain, which lead him to decide 
that surgery was the best option for him.  Currently, his 
hernias are reducible simply by rolling over and gravity and 
sometimes gentle pressure.
His left groin is occasionally symptomatic. He is here today for 
left inguinal hernia repair and incisional hernia repair.
 
Past Medical History:
Includes arthritis, hypertension, foot pain, back pain, colonic 
polyps, diverticulitis, endocarditis, GI bleed requiring angio 
coiling, status post laminectomy, status post radical 
prostatectomy, status post right knee replacement, and history 
of vertigo
 
Social History:
___
Family History:
No family history of GI bleeds or diverticulosis.
 
Physical Exam:
Pre-operative exam:
Blood pressure 142/86, heart rate 65, respirations 18, 
temperature 97.5, O2 sats 98%, weight 189 pounds.  Breathing 
comfortably.  Abdomen is soft.  Lower midline incision with 
upper aspect near the umbilicus with a palpable hernia.  He has 
a moderate-to-large hernia in the left groin, which is reducible 
when supine and is nontender.  Both testicles were down.

Post-operative exam on discharge:
Stable vital signs
alert and oriented, no acute distress
lungs clear to ascultation anteriorly
regular rate 
abdomen soft, appropriately tender around incisions, 
non-distended, no guarding or rebound, mild erythema surrounding 
incisional hernia repair site with no fluctuace or discharge, 
inguinal hernia incision site with mild serosanguinous discharge
no extremity edema
Foley in place with clear light yellow output
 
Pertinent Results:
___ 
Hct-39.0*
Na-144 K-3.6 Cl-106 Mg-2.0

 
Brief Hospital Course:
The patient was admitted to the ___ surgical service under 
Dr. ___ undergoing an incisional hernia repair, left 
inguinal hernia repair with mesh. The patient tolerated the 
procedure well. There were no intraoperative complications. 
Please refer to the separate operative note for full details of 
the procedure. 

On POD 0 the patient's pain was controlled on PO oxycodone and 
IV morphine. The patient was started on a clear liquid diet. The 
patient failed to void 6 hours post procedure and was straight 
cathed for ~600cc of urine. 

On POD 1 the patient continued to be unable to void and 
therefore a Foley catheter was placed early in the morning. He 
was having more pain and was placed on PCA to optimize pain 
control.

During the following 2 days the patient's diet was gradually 
advanced to regular without nausea or vomiting. He was also 
transitioned to po pain medications with good pain control 
results. A second attempt at removing the Foley catheter was 
made but again he failed to void. The Foley was replaced and 
Urology notified, who advised on leaving the catheter in until a 
follow up appointment for a voiding trial.

At time of discharge on POD 4 the patients pain was controlled 
on oral pain medication, the patient was ambulating without 
assistance, and tolerating a regular diet. He has a Foley 
catheter in place with great urine output recorded due to 
failure to void in the postoperative period. The rest of the 
patient's hospitalization was uneventful. He is being discharged 
home with follow up appointments with Urology for Foley removal 
and Dr. ___ op visit.
 
Medications on Admission:
tramadol 50mg ___ tab q4-6h
simvastatin 80'
gabapentin 300'''
diazepam 2 mg up to TID to suppress vertigo
HCTZ 12.5'
omeprazole 20'
miralax 17g'
quinapril 40'
vit c 500'
multi vit
allopurinol ___
amoxicillin 2g prior to dental work

 
Discharge Medications:
1. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
2. cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 7 days.
Disp:*28 Capsule(s)* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*50 Capsule(s)* Refills:*2*
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
7. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
8. quinapril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

9. tramadol 50 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6 
hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Umbilical hernia
Large left inguinal hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Medications: Please resume all of your home medications. 
Narcotic pain medicine has been prescribed for you. Please take 
this medication as prescribed. Do not drive while taking 
narcotic pain medicaiton. You make take tylenol for pain. Do not 
exceed 4000mg in a day. You ___ discharged on a 7 day 
course of antibiotic, please take as prescribed.

Diet: You may resume your regular home diet.

Activity: No strenous activity (lifting greater than 10 lbs) 
until you see Dr. ___ in follow up. You may shower but do not 
swim/bathe/submerge your incisions under water until you see Dr. 
___. Please continue to wear your abdominal binder at all time 
(exception: it may be removed for you to shower.) 

Please call Dr. ___ office ___ if you experience 
any of the following:
Fever greater than 101
Redness that is spreading
Pain not adequately relieved with medication
Drainage from wound
Opening of incision
Nausea and vomiting
Abdominal pain
Abdominal swelling
Blood in stool
Black stool

Please call Dr. ___ office ___ to schedule a 
follow up appointment. Also please follow up with Urology for 
Foley catheter removal next ___ as planned.
 
Followup Instructions:
___